US04101667
The mixture of 1.0g of 9-cyano-3-fluoro-10,11-dihydrodibenzo-[b,f]thiepin-11-one, 1.1g of 100% hydrazine hydrate and 16ml of ethanol was heated under reflux for 4.5 hours. The reaction mixture was concentrated to about one-fifth. After cooling, crystals was collected by filtration, there was obtained 9-cyano-3-fluoro-10,11-dihydrodibenzo[b,f]thiepin-11-one hydrazone having a melting point of 178°-179° C in quantitative yield.

reactant | 9-cyano-3-fluoro-10,11-dihydrodibenzo-[b,f]thiepin-11-one | 1.0g | C(#N)C1=CC=CC2=C1CC(C1=C(S2)C=C(C=C1)F)=O | C15H8FNOS
reactant | hydrazine hydrate | 1.1g | O.NN
solvent | ethanol | 16ml | C(C)O | C2H6O
product | 9-cyano-3-fluoro-10,11-dihydrodibenzo[b,f]thiepin-11-one hydrazone | quantitative yield | C(#N)C1=CC=CC2=C1CC(C1=C(S2)C=C(C=C1)F)=NN | C15H10FN3S
